US06008215
1. (-)-cis-8,9-Dimethoxy-6-(4-methoxycarbonylphenyl)-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]naphthyridine hydrochloride
2.31 g of (-)-cis-terephthalic acid N-[3-(3,4-dimethoxyphenyl)-1-methylpiperidin-4-yl]amide mono-methyl ester are heated to boiling under reflux for 4 h in 25 ml of acetonitrile and 3 ml of phosphorus oxytrichloride. After distilling off the excess phosphorus oxytrichloride, the residue is partitioned between dichloromethane and saturated sodium hydrogencarbonate solution. The organic phase is washed with water, dried over sodium sulfate and concentrated. The solid residue is purified by silica gel chromatography, the main product fraction is separated and this is concentrated. The solid residue is dissolved in a little methanol, and the solution is treated with one equivalent of aqueous HCl and concentrated. The solid residue is recrystallized in methanol/diethyl ether. 1.76 g (70% of theory) of the title compound are obtained as a 1.25-hydrochloride 0.5-hydrate having the m.p. 188-192° C. (unsharp, slow deliquescence).

reactant | (-)-cis-terephthalic acid N-[3-(3,4-dimethoxyphenyl)-1-methylpiperidin-4-yl]amide mono-methyl ester | 2.31 g | COC(C1=CC=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C)C2=CC(=C(C=C2)OC)OC)C=C1)=O | C23H28N2O5
reactant | HCl | one equivalent | Cl | ClH
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | phosphorus oxytrichloride | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (-)-cis-8,9-Dimethoxy-6-(4-methoxycarbonylphenyl)-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]naphthyridine hydrochloride | Cl.COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)C(=O)OC)C1)OC | InChI=1S/C23H26N2O4.ClH/c1-25-10-9-19-18(13-25)16-11-20(27-2)21(28-3)12-17(16)22(24-19)14-5-7-15(8-6-14)23(26)29-4;/h5-8,11-12,18-19H,9-10,13H2,1-4H3;1H/t18-,19-;/m0./s1
